US07244725B2
N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-(1H-pyrrol-3-yl)-3,4-dihydro-2H-chromen-4-yl]amino}propyl)acetamide
To a solution of N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}propyl)acetamide (0.300 g, 0.58 mmol) and anhydrous THF (5 mL) was added Pd(dppf)Cl2 (0.030 g, 0.03 mmol) and K3PO4 (2.9 mL, 5.80 mmol). To this mixture was added boronic acid (0.310 g, 1.16 mmol) (J. Org. Chem. 1992, 57, 1653) and the reaction mixture was heated to 65° C. overnight under nitrogen with stirring. Reaction was quenched with deionized water and then extracted with ethyl acetate. Organic layers were washed with brine, then dried with MgSO4, filtered, and concentrated in vacuo. The TIPS-protected compound (0.100 g, 0.16 mmol) was dissolved in THF (3 mL) and then 0.1M solution of TBAF in THF (0.32 mL, 0.32 mmol) was added. Reaction mixture was stirred for 2 h, then concentrated in vacuo. Dissolved in ethyl acetate, filtered through silica gel plug, then concentrated in vacuo to give the desired product as an amber oil (130 mg), which is purified by reverse phase prep-HPLC. HRMS (ESI); calcd for C25H27N3O3F2+H1 456.2099, found 456.2092.

reactant | N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}propyl)acetamide | 0.58 mmol, 0.300 g | FC=1C=C(C[C@@H]([C@@H](CN[C@H]2CCOC3=CC=C(C=C23)I)O)NC(C)=O)C=C(C1)F | C21H23F2IN2O3
reactant | K3PO4 | 5.80 mmol, 2.9 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | boronic acid | 1.16 mmol, 0.310 g | B(O)O | BH3O2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 0.030 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 0.32 mmol, 0.32 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-(1H-pyrrol-3-yl)-3,4-dihydro-2H-chromen-4-yl]amino}propyl)acetamide | 130 mg | FC=1C=C(C[C@@H]([C@@H](CN[C@H]2CCOC3=CC=C(C=C23)C2=CNC=C2)O)NC(C)=O)C=C(C1)F | C25H27F2N3O3
